US04450173
1-Amino-3-phenoxy-2-propanol Hydrochloride
1-Succinimido-3-phenoxy-2-propanol (16 gm, 0.06 mole) was dissolved in 100 mL conc. HCl and 100 mL ethanol and heated to reflux for 6 hours. After the reaction, the mixture was evaporated to a white residue which was thentaken up in 25 mL water and washed with 3×50 mL ether. The aqueous phase was then evaporated and the white-residue recrystallized from ethanol to provide 8.3 gm (69%) of white crystals: mp 226°-228°. The NMR spectrum was consistent with the assignedstructure and the elemental analysis was consistent with the molecular formula C9H14NO2Cl.

reactant | 1-Succinimido-3-phenoxy-2-propanol | 0.06 mole, 16 gm | C1(CCC(N1CC(COC1=CC=CC=C1)O)=O)=O | C13H15NO4
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | HCl | 100 mL | Cl | ClH
product | 1-Amino-3-phenoxy-2-propanol Hydrochloride | 8.3 gm, 69% | Cl.NCC(COC1=CC=CC=C1)O | InChI=1S/C9H13NO2.ClH/c10-6-8(11)7-12-9-4-2-1-3-5-9;/h1-5,8,11H,6-7,10H2;1H
